US08017607B2
A suspension of (S)-4-(2-azido-ethyl)-2,2-dimethyl-[1,3]dioxolane as a yellow oil (18.7 g, 0.11 mol) and PtO2 (2.5 g) in ethyl acetate (100 mL) was vigorously shaken in a Parr under atmosphere of H2 (50 psi) for 18 h. The mixture was filtered through a short pad of celite. The filtrate was concentrated to give 2-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl)-ethylamine as a colorless oil (14 g, 88%).

reactant | (S)-4-(2-azido-ethyl)-2,2-dimethyl-[1,3]dioxolane | 0.11 mol, 18.7 g | N(=[N+]=[N-])CC[C@@H]1OC(OC1)(C)C | C7H13N3O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | PtO2 | 2.5 g | O=[Pt]=O
product | 2-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl)-ethylamine | 14 g, 88% | CC1(OC[C@@H](O1)CCN)C | C7H15NO2
